US05334600
To a cooled (-10° C.) solution of 2-methyl-5-hydroxypyridine (4.00 g, 36.7 mmol) and pyridine (5.80 g, 5.93 mL, 73.3 mmol) in CH2Cl2 (400 mL) is added triflic anhydride (12.40 g, 7.40 mL, 44 mmol). After 1 hour the reaction mixture is concentrated in vacuo and the resulting material chromatographed (silica gel, 1:4 EtOAc/hexanes) to give 2-methyl-5-(trifluoromethylsulfonyloxy)pyridine.

reactant | 2-methyl-5-hydroxypyridine | 36.7 mmol, 4.00 g | CC1=NC=C(C=C1)O | C6H7NO
reactant | pyridine | 73.3 mmol, 5.93 mL, 5.80 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 44 mmol, 7.40 mL, 12.40 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-(trifluoromethylsulfonyloxy)pyridine | CC1=NC=C(C=C1)OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
